### PR TITLE
[Merged by Bors] - feat(RingTheory): length of submodules and quotients

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Length.lean [hunk 1]
```diff
@@ -90,6 +90,32 @@ lemma Module.length_ne_top [IsArtinian R M] [IsNoetherian R M] : Module.length R
...
+    Module.length R N = Order.height N := by
+  apply WithBot.coe_injective
+  rw [Order.height_eq_krullDim_Iic, coe_length, Order.krullDim_eq_of_orderIso (Submodule.mapIic _)]
+
+lemma Module.length_quotient {N : Submodule R M} :
+    Module.length R (M ⧸ N) = Order.coheight N := by
+  apply WithBot.coe_injective
+  rw [Order.coheight_eq_krullDim_Ici, coe_length,
+    Order.krullDim_eq_of_orderIso (Submodule.comapMkQRelIso N)]
+  rfl
```
Comment (alreadydone) [inline Mathlib/RingTheory/Length.lean:103]: Thank you! Can you please change [Submodule.comapMkQRelIso](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Quotient/Basic.html#Submodule.comapMkQRelIso) to use `Set.Ici`? That's why I didn't find it, and it should also get rid of the `rfl`.

**Review by alreadydone — APPROVED** [review]
maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
